US04301069
Sodium S-2-(1,2,3,4-tetrahydro-2,2,4,7-tetramethyl-1-quinolinyl)ethyl thiosulfate
A mixture of sodium thiosulfate (49.6 g, 0.2 m), sodium iodide (1 g), N-(2-chloroethyl)-2,2,4,7-tetramethyl-1,2,3,4-tetrahydroquinoline (25.2 g, 0.1 m), water (100 ml), and ethanol (100 ml) was refluxed fro 3 hrs. The mixture was cooled and extracted with 2-75 ml portions of toluene. The aqueous layer then contained essentially pure product and aliquots were used to prepare dyes without further purification.

reactant | sodium thiosulfate | 49.6 g | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium iodide | 1 g | [I-].[Na+]
reactant | N-(2-chloroethyl)-2,2,4,7-tetramethyl-1,2,3,4-tetrahydroquinoline | 25.2 g | ClCCN1C(CC(C2=CC=C(C=C12)C)C)(C)C | C15H22ClN
reactant | water | 100 ml | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | Sodium S-2-(1,2,3,4-tetrahydro-2,2,4,7-tetramethyl-1-quinolinyl)ethyl thiosulfate | S(=O)(=O)(SCCN1C(CC(C2=CC=C(C=C12)C)C)(C)C)[O-].[Na+] | InChI=1S/C15H23NO3S2.Na/c1-11-5-6-13-12(2)10-15(3,4)16(14(13)9-11)7-8-20-21(17,18)19;/h5-6,9,12H,7-8,10H2,1-4H3,(H,17,18,19);/q;+1/p-1
